US08686026B2
To a 160 ml Parr stirrer hydrogenation vessel was added (2S,5S)-1-(4-tert-butylphenyl)-2,5-bis(4-nitrophenyl)pyrrolidine (2 g, 4.49 mmol), followed by 60 ml of THF, and Raney Nickel Grace 2800 (1 g, 50 wt % (dry basis)) under a stream of nitrogen. The reactor was assembled and purged with nitrogen (8×20 psig) followed by purging with hydrogen (8×30 psig). The reactor was then pressurized to 30 psig with hydrogen and agitation (700 rpm) began and continued for a total of 16 h at room temperature. The slurry was filtered by vacuum filtration using a GF/F Whatman glass fiber filter. Evaporation of the filtrate to afford a slurry followed by the addition heptane and filtration gave the crude 4,4′-((2S,5S)-1-(4-tert-butylphenyl)pyrrolidine-2,5-diyl)dianiline, which was dried and used directly in the next step.

reactant | (2S,5S)-1-(4-tert-butylphenyl)-2,5-bis(4-nitrophenyl)pyrrolidine | 4.49 mmol, 2 g | C(C)(C)(C)C1=CC=C(C=C1)N1[C@@H](CC[C@H]1C1=CC=C(C=C1)[N+](=O)[O-])C1=CC=C(C=C1)[N+](=O)[O-] | C26H27N3O4
solvent | heptane | CCCCCCC | C7H16
product | 4,4′-((2S,5S)-1-(4-tert-butylphenyl)pyrrolidine-2,5-diyl)dianiline | C(C)(C)(C)C1=CC=C(C=C1)N1[C@@H](CC[C@H]1C1=CC=C(N)C=C1)C1=CC=C(N)C=C1 | C26H31N3
